US03997549
A solution of 27.2 g of sulfuryl chloride in 50 ml of dry carbon tetrachloride was added dropwise to a cold (ice-salt bath) solution of 25 g of 4-methylbenzenethiol in 50 ml of carbon tetrachloride containing a few drops of pyridine. The solution was stirred for 0.5 hour at ice-salt bath temperature, allowed to warm to room temperature, then heated under gentle reflux for 0.5 hour. The solution was filtered through a layer of anhydrous sodium sulfate and the filtrate concentrated under reduced pressure. The red liquid residue was distilled to give 24.1 g of 2-methylbenzenesulfenyl chloride, b.p. 67°-69° at 2 mm, nD25 1.6015.

reactant | sulfuryl chloride | 27.2 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-methylbenzenethiol | 25 g | CC1=CC=C(C=C1)S | C7H8S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-methylbenzenesulfenyl chloride | 24.1 g | CC1=C(C=CC=C1)SCl | C7H7ClS
